* source EE610_PROJETO_FINAL
M_M1         N14371 N14375 0 0 MNINV1           
M_M2         N14371 N14375 N14436 N14436 MPINV1           
V_V1         N14436 0 3V
V_VI         N14375 0 0Vdc
C_C1         N14371 0  155f  TC=0,0 
